US08957203B2
2,4-dichloro-7-methoxyquinazoline (500 mg, 2.183 mmol) was suspended in 2% aqueous NaOH (6 mL). THF (1 mL) was added and the reaction was stirred for 4 h. The reaction was diluted with water and the solid that remained was filtered off. The aqueous phase was diluted with 1 N HCl. The precipitate that formed was filtered, washed with water and dried to give 2-chloro-7-methoxyquinazolin-4-ol (288 mg, 63% yield). MS: MS m/z 211.1 (M++1).

reactant | 2,4-dichloro-7-methoxyquinazoline | 2.183 mmol, 500 mg | ClC1=NC2=CC(=CC=C2C(=N1)Cl)OC | C9H6Cl2N2O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | NaOH | 6 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 2-chloro-7-methoxyquinazolin-4-ol | 288 mg, 63% yield | ClC1=NC2=CC(=CC=C2C(=N1)O)OC | C9H7ClN2O2
